US08222249B2
To a stirred mixture of 1-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)-3-(4-nitrophenyl)urea (150 mg, 0.343 mmol) in EtOH (2 mL) was added sodium dithionite (597 mg, 3.43 mmol) in water (2 mL). The resulting mixture was heated to 60° C. for 20 min at which time LC-MS indicated complete disappearance of nitro starting material. The reaction mixture was combined with the crude product from a separate run and concentrated in vacuo. The residue was dissolved in minimal DMF and chromatographed on a C-18 preparative HPLC column equipped with mass triggered collection. The desired fractions were combined and concentrated in vacuo to provide 1-(4-amino-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a pale yellow solid (90 mg, 40% combined average yield from two separate runs): mp: >400° C.; LCMS: MH+=408.

reactant | 1-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)-3-(4-nitrophenyl)urea | 0.343 mmol, 150 mg | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)NC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C21H19N5O6
reactant | sodium dithionite | 3.43 mmol, 597 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | water | 2 mL | O | H2O
product | 1-(4-amino-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | NC1=CC=C(C=C1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C21H21N5O4
